### PR TITLE
[Merged by Bors] - feat(Tactic/FieldSimp): rewrite for performance and robustness

### PR DESCRIPTION
**Pull request by hrmacbeth**
This is a rewrite from scratch of the `field_simp` tactic. The former implementation was a lightweight wrapper around `simp` (with a custom simp-set and discharger).

Broadly speaking, the new implementation reduces expressions to an internal normal form `x1 ^ k1 * ... * xn ^ kn`, where `x1`, ... `xn` are atoms tracked by the `AtomM` monad and `k1`, ... `kn` are integers.

This is more robust: the tactic now solves goals which were not in scope for the simp-set version, often to the confusion of users. For example, `x ^ 2 / x` is now reduced to `x`, and `x / (x * y)` is now reduced, given `(hx : x ≠ 0)`, to `1 / y`.

It's also faster: on a typical large example taken from Mathlib, the heartbeat count reduces from 19983 heartbeats to 2979 heartbeats.

There is a big diff: the old `field_simp` subsumed `simp`, and this was often exploited. We offer a simproc version of the new `field_simp`, and switching to a `simp` call with this simproc fixes about 80% of the cases that break; the rest are handled individually (typically by alternating `simp` and `field_simp` calls).

Developed at Big Proof at the Isaac Newton Institute.

Co-authored-by: Arend Mellendijk @FLDutchmann
Co-authored-by: Michael Rothgang @grunweg

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #27562

For ease of review, the PR is built from two commits: the [tactic implementation](https://github.com/leanprover-community/mathlib4/pull/28658/commits/34451004e62c28832c0578b646e01ed45c0a24a1) itself (+1318, -265), and the [fixes across the library](https://github.com/leanprover-community/mathlib4/pull/28658/commits/2b332130067e087ddbfbbffa3e0fb9ed78a92495) (+511, -533).

A good way to get a sense of the changed implementation is to look at the diff in `MathlibTest.FieldSimp`.

[Zulip announcement](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/PR.20for.20new.20field_simp.20implementation)

[Zulip PR reviews discussion](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2328658.20New.20.60field_simp.60)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean [hunk 1]
```diff
@@ -269,7 +269,7 @@ lemma XYIdeal_eq₁ (x y ℓ : R) : XYIdeal W' x (C y) = XYIdeal W' x (linePolyn
   apply congr_arg (_ ∘ _ ∘ _ ∘ _)
   C_simp
   ring1
-
+set_option linter.unusedSimpArgs false in
```
Comment (plp127) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean:274]: what is this?

Comment (hrmacbeth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean:274]: There's a simp call inside another simp call, so the linter wrongly flags a simp argument as being unused.

Comment (plp127) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean:274]: Could you raise this as an issue?

File: Mathlib/Data/Real/Basic.lean [hunk 2]
```diff
@@ -477,7 +477,7 @@ noncomputable instance instDivInvMonoid : DivInvMonoid ℝ where
 lemma ofCauchy_div (f g) : (⟨f / g⟩ : ℝ) = (⟨f⟩ : ℝ) / (⟨g⟩ : ℝ) := by
   simp_rw [div_eq_mul_inv, ofCauchy_mul, ofCauchy_inv]
 
-noncomputable instance field : Field ℝ where
+noncomputable instance instField : Field ℝ where
```
Comment (plp127) [inline Mathlib/Data/Real/Basic.lean:480]: Why was this changed?

**Comment by j-loreaux** [comment]
Some first impressions / comments / questions after scanning the fallout in Mathlib.

1. Can you give an estimate for how many calls to `field_simp` were replaced with something else due to this change compared to the total number of `field_simp` calls? Even just a regex search would suffice. I'm not looking for precise numbers.
2. It would be good to explain, both in the PR description and the tactic file, the situations where one would expect to use `simp [field]` versus `field_simp`, or some other variation.
3. There are a (relatively large) number of places where things seemed to get significantly worse, which makes me sad, because I think this is a good idea overall.
4. I don't think I like the spelling `field_simp` anymore, especially because it's no longer calling `simp`. Perhaps we should call it `field`, or, if it's not meant to be finishing, `field_nf`? Likewise, we now have two different simprocs, `field` and `field_simps`, which is a bit confusing. Just from reading it's not at all clear what the differences are.
5. Can you explain somewhere why it's not possible to recover the behavior of the old `field_simp` with just `simp [field]`? What was it doing previously that we can't seem to recreate with the `simproc`?

File: MathlibTest/FieldSimp.lean [hunk 3]
```diff
@@ -42,31 +42,31 @@ example : P (x ^ 0) := by test_field_simp
...
 
-/-- error: `simp` made no progress -/
+/-- error: field_simp made no progress -/
 #guard_msgs in
 example : P x := by test_field_simp
 
-/-- error: `simp` made no progress -/
+/-- info: P (x ^ 2) -/
 #guard_msgs in
 example : P (x ^ 2) := by test_field_simp
```
Comment (plp127) [inline MathlibTest/FieldSimp.lean:51]: What has changed here? This looks like no progress to me.

File: MathlibTest/FieldSimp.lean [hunk 4]
```diff
@@ -152,218 +144,214 @@ example {hx : x ≠ 0} : P (x ^ 17 / x ^ 17) := by test_field_simp
...
 example : P ((3 - 2) * x - x) := by test_field_simp
 
--- Multiplication with a zero literal is simplified.
-/-- info: P 0 -/
+-- There is no special handling of zero,
+-- in particular multiplication with a zero literal is not simplified.
+
+/-- info: P (0 * x) -/
 #guard_msgs in
 example : P (0 * x) := by test_field_simp
```
Comment (plp127) [inline MathlibTest/FieldSimp.lean:318]: Can you explain why we no longer want to clean up zero?

File: MathlibTest/FieldSimp.lean [hunk 5]
```diff
@@ -426,47 +398,44 @@ example {K : Type*} [Semifield K] (x y : K) : 2 * x / (y + 1) = x := by
...
 section
 
 -- TODO (new implementation): do we want `field_simp` to reduce this to `⊢ x * y = z * y ^ 2`?
 -- Or perhaps to `⊢ x / y / y = z / y`?
-/-- error: `simp` made no progress -/
-#guard_msgs in
 example {x y z : ℚ} : x / y ^ 2 = z / y := by
   field_simp
+  guard_target = x / y ^ 2 = z / y
+  exact test_sorry
```
Comment (plp127) [inline MathlibTest/FieldSimp.lean:438]: Why does this not give a "no progress" error?

File: Mathlib/Tactic/FieldSimp/Lemmas.lean
Comment (plp127) [inline Mathlib/Tactic/FieldSimp/Lemmas.lean:1]: Can you namespace these lemmas?

File: Mathlib/Data/Real/Basic.lean (hunk 2 above)
Comment (hrmacbeth) [reply Mathlib/Data/Real/Basic.lean:480]: To not conflict with the `field` simproc when the `Real` namespace is open.

File: MathlibTest/FieldSimp.lean (hunk 3 above)
Comment (hrmacbeth) [reply MathlibTest/FieldSimp.lean:51]: This is the fault of the "no progress" checker, which uses expression equality rather than reducible defeq, so is sensitive to instance changes.  See current behaviour of `ring_nf`, whose code is being shared here:
```lean
import Mathlib

example {a b : ℚ} (P : ℚ → Prop) : P (a * b) := by
  ring_nf -- no complaint
  sorry

example {a b : ℚ} (P : ℚ → Prop) : P a := by
  ring_nf -- ring_nf made no progress
  sorry
```

File: MathlibTest/FieldSimp.lean (hunk 4 above)
Comment (hrmacbeth) [reply MathlibTest/FieldSimp.lean:318]: It's not convenient with the new implementation and it's not needed; the thing we want to preserve/extend is the strength of `field_simp; ring`, and `ring` can handle the zeros..

File: Mathlib/Tactic/FieldSimp.lean [hunk 6]
```diff
@@ -1,140 +1,595 @@
...
+          -- if we can prove nonzeroness
+          bothPresent t₁ t₂ n₁ n₂ e₁ pf_e i₁
+        catch _ =>
+          -- if we can't prove nonzeroness, don't pull out e.
+          let ⟨L, l₁', l₂', pf₁, pf₂, pf₀⟩ ← gcd iM t₁ t₂ disch nonzero
+          return ⟨L, ((n₁, e₁), i₁) :: l₁', ((n₂, e₂), i₂) :: l₂',
+            (q(NF.eval_mul_eval_cons $n₁ $e₁ $pf₁):), (q(NF.eval_mul_eval_cons $n₂ $e₂ $pf₂):), pf₀⟩
+      else
+        -- this is a "junk" sorry: the proof doesn't get used when flag `nonzero` is set to false
+        bothPresent t₁ t₂ n₁ n₂ e₁ q(sorry) i₁
```
Comment (plp127) [inline Mathlib/Tactic/FieldSimp.lean]: Can you use `(default : Expr)` here (i.e. `_inhabitedExprDummy`) so that if this `sorry` does somehow make it out into the proof term it will fail to typecheck instead of mysteriously reporting "proof depends on `sorry`"?

File: MathlibTest/FieldSimp.lean (hunk 5 above)
Comment (hrmacbeth) [reply MathlibTest/FieldSimp.lean:438]: See https://github.com/leanprover-community/mathlib4/pull/28658#discussion_r2286210876

File: Mathlib/Tactic/FieldSimp.lean [hunk 7]
```diff
@@ -1,140 +1,595 @@
...
+    TacticM (∀ {u : Level} (type : Q(Sort u)), MetaM Q($type)) := do
+  match d with
+  | none =>
+    let ctx ← Simp.Context.ofArgs (args.getD ⟨.missing⟩) { contextual := true }
+    let tac := wrapSimpDischargerWithCtx FieldSimp.discharge ctx
+    return (synthesizeUsing' · tac)
+  | some d =>
+    if args.isSome then
+      logWarningAt args.get!
+        "Custom `field_simp` dischargers do not make use of the `field_simp` arguments list"
```
Comment (plp127) [inline Mathlib/Tactic/FieldSimp.lean:536]: Can you mention the way to disable the warning in the message?

File: MathlibTest/FieldSimp.lean (hunk 3 above)
Comment (plp127) [reply MathlibTest/FieldSimp.lean:51]: Can you add a test that running it twice should be no progress?

File: Mathlib/Data/Real/Basic.lean (hunk 2 above)
Comment (plp127) [reply Mathlib/Data/Real/Basic.lean:480]: What about all the other things called `namespace.field`?

**Comment by hrmacbeth** [comment]
@j-loreaux 

> 1. Can you give an estimate for how many calls to `field_simp` were replaced with something else due to this change compared to the total number of `field_simp` calls? Even just a regex search would suffice. I'm not looking for precise numbers.

About 50% I think, 200-ish replaced and 200-ish not replaced.

> 3. There are a (relatively large) number of places where things seemed to get significantly worse, which makes me sad, because I think this is a good idea overall.

We can dig into specific examples if you're curious, but generally I would interpret this as a sign of fragility in the original proof. Either the proof has a lot of alternation between `simp`-ing and denominator-combining (which is now being written out explicitly), or the nonzeroness proofs are heavily dependent on the exact form of the denominators (and the original implementation got lucky with what form was produced).

Note that the diff of the adaptation commit is +509 -531, so on balance things get better!

> 4. I don't think I like the spelling `field_simp` anymore, especially because it's no longer calling `simp`. Perhaps we should call it `field`, or, if it's not meant to be finishing, `field_nf`? 

I can see the appeal of renaming, but I think we ought to keep the `field_simp` name as a deprecated alternative until people get a new name into their muscle memory.

If we are renaming, I don't think "field" or "field_nf" is a good name: this tactic doesn't invoke "ring" so doesn't do a full "field normalization" (and I'm not even sure that that concept is well defined).  Something like `common_denominator`, maybe ...

(In a later PR I plan to add a finishing tactic called `field` which will do (approximately) `field_simp; ring1`.)

> Likewise, we now have two different simprocs, `field` and `field_simps`, which is a bit confusing. Just from reading it's not at all clear what the differences are.

`field` is the simproc version of the new implementation. `field_simps` is the simp-set from the old implementation, maybe we should get rid of it (but I kept it in order to quickly fix <5 uses that are now out of scope, e.g. because they are in a `CommRing` or a `DivisionRing` rather than a `Field`).

> 5. Can you explain somewhere why it's not possible to recover the behavior of the old `field_simp` with just `simp [field]`? What was it doing previously that we can't seem to recreate with the `simproc`?

Long story, let me save that for another comment ....

Noted as a todo:
> 2. It would be good to explain, both in the PR description and the tactic file, the situations where one would expect to use `simp [field]` versus `field_simp`, or some other variation.

**Comment by grunweg** [comment]
The following is a lightly edited summary of a comment @hrmacbeth posted in zulip DMs: this is a more precise answer to Jireh's question 1.

------------

I've looked at a sample of 195 field_simps in the library:
- 10 are actually just simps (i.e. changing field_simp to simp breaks nothing)
  (note: these were landed in a previous PR)
- 85 don't use the simp-ing capability of the old field_simp (i.e., were changed to the new `field_simp` tactic, modulo the addition or removal of a concluding ring)
- 100 are using both the "simp" and the "field_simp" capability of the old field_simp

Among the 100 simp-using field_simps, a negligible proportion have a genuine interaction between the simps and denominator-cancellation.
- Most can be turned into one simp followed by one "new field_simp".
- A few have to be turned into a simp, followed by one "new field_simp", followed by another simp
- Only one or two have a more complex interaction (e.g. simp, field_simp, simp, field_simp)

**Comment by ghost** [comment]
!bench

**Comment by ghost** [comment]
!bench

**Comment by ghost** [comment]
!bench

**Comment by hrmacbeth** [comment]
> 5. Can you explain somewhere why it's not possible to recover the behavior of the old `field_simp` with just `simp [field]`? What was it doing previously that we can't seem to recreate with the `simproc`?

@j-loreaux The case where neither new option works in one shot is when (1) `field_simp` is being run to normalize a field-expression, not an equality, and (2) `simp`-ing is involved.  There are about 40 of these in the library.  Here's a typical example (modified from one in `Analysis.Convex.Slope`):
```lean
import Mathlib.Tactic.FieldSimp
import Mathlib.Algebra.Field.Basic

variable {𝕜 : Type*} [Field 𝕜] {x y z X Z D : 𝕜} (hD : D ≠ 0) 
  {P : 𝕜 → Prop} -- in the library example `P` was the property "greater than `Y * (z - x)`"

example :
    let a := (z - y) / D;
    let b := (y - x) / D;
    P ((a * X + b * Z) * D) := by
  intro a b
  field_simp [a, b] 
  sorry
```

- The old `field_simp` ran `simp [a, b]` and then cancelled some `D` factors where it appeared in both numerator and denominator.
- The new `field_simp` doesn't do simp-ing, so `field_simp [a, b]` makes no progress, but `simp [a, b]; field_simp` replicates the old behaviour.
- Simprocs are attached to keys, and the key on the new `field` simproc is `_ = _`, so the simproc doesn't get triggered on the above expression: if I run `simp [field, a, b]`, it just unfolds `a` and `b`, and I get a warning "This simp argument is unused: field"

We experimented with allowing the simproc to be triggered by more keys (`_ + _`, `_ * _`, etc), but the problem is that then you start to get the simproc running multiple times on the same term (e.g. on an `=` and then on a `*` that appears within the normalized `=` expression, or vice versa), so it becomes very inefficient.

**Comment by hrmacbeth** [comment]
Looking at the bench, this generally seems to be a speedup (as we hoped), but there are a few examples with big slowdowns.  I looked at the worst one:

> `Mathlib.LinearAlgebra.Vandermonde`	+8.551⬝10⁹	(+26.65%)

and the slowdown seems to be because of a call to the old `field_simp` which featured complicated and fragile alternation between `simp` and denominator-clearing. The proof I had replaced it with went down a different, apparently wildly inefficient, `simp`-path.

Here is an extracted version of the example (the only `field_simp` in the file):
```lean
import Mathlib.LinearAlgebra.Vandermonde

open Matrix Fin Finset

example {K : Type*} [Field K] (n : ℕ) (v w : Fin (n + 1) → K) (h0 : w 0 ≠ 0) :
    let r := v 0 / w 0;
    r = v 0 / w 0 →
    let W :=
      Matrix.of fun (i : Fin (n + 1)) ↦
        Fin.cons (projVandermonde v w i 0)
          fun j ↦ projVandermonde v w i j.succ - r * projVandermonde v w i j.castSucc;
    (W.submatrix succ succ = Matrix.of
      fun (i j : Fin n) ↦ (v i.succ - r * w i.succ) * projVandermonde (v ∘ succ) (w ∘ succ) i j) →
    (-1) ^ ((0 : Fin n.succ):ℕ) * W 0 0 *
      ((∏ i : Fin n, (v i.succ - r * w i.succ)) *
            ∏ i : Fin n, ∏ j ∈ Ioi i, ((v ∘ succ) j * (w ∘ succ) i - (v ∘ succ) i * (w ∘ succ) j))
    = ∏ i, ∏ j ∈ Ioi i, (v j * w i - v i * w j) := by
  intro r hr W hW_eq
```

Before it was solved in 12.7k heartbeats by
```lean
field_simp [show W 0 0 = w 0 ^ n by simp [W, projVandermonde_apply], prod_univ_succ, hr]
```
I had replaced this by 
```lean
simp [show W 0 0 = w 0 ^ n by simp [W, projVandermonde_apply], prod_univ_succ, hr]
field_simp
simp
field_simp
```
which took 38.6k heartbeats!  Even squeezing the simps only reduces to 29.7k. But after tracing what the original `field_simp` call was doing, I can send it down something which more closely matches the original simp-path:
```lean
simp only [Nat.succ_eq_add_one, coe_ofNat_eq_mod, Nat.zero_mod,
  pow_zero, show W 0 0 = w 0 ^ n by simp [W, projVandermonde_apply], one_mul, hr]
field_simp
simp only [Finset.prod_div_distrib, Finset.prod_const, Finset.card_fin, Function.comp_apply]
field_simp
simp only [prod_univ_succ, Ioi_zero_eq_map, Finset.prod_map, coe_succEmb, prod_Ioi_succ]
``` 
This is 8.3k heartbeats.  (I'll push this version.)

Edit: this diagnosis is confirmed by benchmarking the new version -- with my first proof the file was +8.551B compared to master, with the new proof the file is -1.008B compared to master.

**Comment by hrmacbeth** [comment]
!bench

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean:274]: @hrmacbeth, I don't understand exactly what's happening here. Is the "unused" argument being flagged as used by some internal simp call (if so, how is it propagating there?) If so, are you saying that we need to pass back the "used" list from the internal simp call to the outer one somehow?

Comment (kim-em) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean:274]:
```suggestion

set_option linter.unusedSimpArgs false in
```

File: Mathlib/Analysis/BoxIntegral/Box/SubboxInduction.lean [hunk 8]
```diff
@@ -90,7 +90,7 @@ theorem iUnion_coe_splitCenterBox (I : Box ι) : ⋃ s, (I.splitCenterBox s : Se
 @[simp]
 theorem upper_sub_lower_splitCenterBox (I : Box ι) (s : Set ι) (i : ι) :
     (I.splitCenterBox s).upper i - (I.splitCenterBox s).lower i = (I.upper i - I.lower i) / 2 := by
-  by_cases i ∈ s <;> field_simp [splitCenterBox] <;> field_simp [mul_two, two_mul]
+  by_cases i ∈ s <;> simp (disch := assumption) [field, splitCenterBox] <;> ring
```
Comment (kim-em) [inline Mathlib/Analysis/BoxIntegral/Box/SubboxInduction.lean]:
```suggestion
  by_cases i ∈ s <;> 
  · field_simp 
    simp_all [splitCenterBox]
    ring
```
Perhaps preferable, to avoid the reader having to wonder why a custom discharger is being used.

File: Mathlib/Analysis/Calculus/LogDeriv.lean [hunk 9]
```diff
@@ -48,14 +48,13 @@ theorem logDeriv_mul {f g : 𝕜 → 𝕜'} (x : 𝕜) (hf : f x ≠ 0) (hg : g
     (hdf : DifferentiableAt 𝕜 f x) (hdg : DifferentiableAt 𝕜 g x) :
       logDeriv (fun z => f z * g z) x = logDeriv f x + logDeriv g x := by
   simp only [logDeriv_apply]
```
Comment (kim-em) [inline Mathlib/Analysis/Calculus/LogDeriv.lean]:
```suggestion
```

File: Mathlib/Analysis/Calculus/LogDeriv.lean [hunk 10]
```diff
@@ -48,14 +48,13 @@ theorem logDeriv_mul {f g : 𝕜 → 𝕜'} (x : 𝕜) (hf : f x ≠ 0) (hg : g
...
-  field_simp [mul_comm]
+  simp (disch := assumption) [field]
```
Comment (kim-em) [inline Mathlib/Analysis/Calculus/LogDeriv.lean]:
```suggestion
  simp_all [field, logDeriv_apply]
```

File: Mathlib/Analysis/Calculus/LogDeriv.lean [hunk 11]
```diff
@@ -48,14 +48,13 @@ theorem logDeriv_mul {f g : 𝕜 → 𝕜'} (x : 𝕜) (hf : f x ≠ 0) (hg : g
...
 
 theorem logDeriv_div {f g : 𝕜 → 𝕜'} (x : 𝕜) (hf : f x ≠ 0) (hg : g x ≠ 0)
     (hdf : DifferentiableAt 𝕜 f x) (hdg : DifferentiableAt 𝕜 g x) :
     logDeriv (fun z => f z / g z) x = logDeriv f x - logDeriv g x := by
   simp only [logDeriv_apply]
-  field_simp [mul_comm]
-  ring
+  simp (disch := assumption) [field]
```
Comment (kim-em) [inline Mathlib/Analysis/Calculus/LogDeriv.lean]:
```suggestion
  simp_all [field, logDeriv_apply]
```

File: Mathlib/Analysis/Calculus/LogDeriv.lean [hunk 12]
```diff
@@ -48,14 +48,13 @@ theorem logDeriv_mul {f g : 𝕜 → 𝕜'} (x : 𝕜) (hf : f x ≠ 0) (hg : g
     (hdf : DifferentiableAt 𝕜 f x) (hdg : DifferentiableAt 𝕜 g x) :
       logDeriv (fun z => f z * g z) x = logDeriv f x + logDeriv g x := by
   simp only [logDeriv_apply]
-  field_simp [mul_comm]
+  simp (disch := assumption) [field]
 
 theorem logDeriv_div {f g : 𝕜 → 𝕜'} (x : 𝕜) (hf : f x ≠ 0) (hg : g x ≠ 0)
     (hdf : DifferentiableAt 𝕜 f x) (hdg : DifferentiableAt 𝕜 g x) :
     logDeriv (fun z => f z / g z) x = logDeriv f x - logDeriv g x := by
   simp only [logDeriv_apply]
```
Comment (kim-em) [inline Mathlib/Analysis/Calculus/LogDeriv.lean]:
```suggestion
```

File: Mathlib/Analysis/Calculus/Monotone.lean [hunk 13]
```diff
@@ -34,6 +34,7 @@ open Set Filter Function Metric MeasureTheory MeasureTheory.Measure IsUnifLocDou
 
 open scoped Topology
 
+set_option linter.unusedSimpArgs false in
```
Comment (kim-em) [inline Mathlib/Analysis/Calculus/Monotone.lean:38]: Hopefully once we've at least got the symptoms, we can link to an issue here.

File: Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean [hunk 14]
```diff
@@ -299,12 +299,11 @@ theorem exists_SL2_smul_eq_of_apply_zero_one_ne_zero (g : SL(2, ℝ)) (hc : g 1
...
   replace h_denom : ↑c * z + d ≠ 0 := by simpa using h_denom ⟨z, hz⟩
-  have h_aux : (c : ℂ) * d + ↑c * ↑c * z ≠ 0 := by
-    rw [mul_assoc, ← mul_add, add_comm]
-    exact mul_ne_zero hc h_denom
   replace h : (a * d - b * c : ℂ) = (1 : ℂ) := by norm_cast
   field_simp
-  linear_combination (-(z * (c : ℂ) ^ 2) - c * d) * h
+  ring_nf at h_denom ⊢
+  field_simp
+  linear_combination -h
```
Comment (kim-em) [inline Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean]:
```suggestion
  grind
```

File: Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean [hunk 15]
```diff
@@ -299,12 +299,11 @@ theorem exists_SL2_smul_eq_of_apply_zero_one_ne_zero (g : SL(2, ℝ)) (hc : g 1
     simpa [modular_S_smul, coe_specialLinearGroup_apply]
   replace hc : (c : ℂ) ≠ 0 := by norm_cast
   replace h_denom : ↑c * z + d ≠ 0 := by simpa using h_denom ⟨z, hz⟩
-  have h_aux : (c : ℂ) * d + ↑c * ↑c * z ≠ 0 := by
-    rw [mul_assoc, ← mul_add, add_comm]
-    exact mul_ne_zero hc h_denom
   replace h : (a * d - b * c : ℂ) = (1 : ℂ) := by norm_cast
   field_simp
```
Comment (kim-em) [inline Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean]:
```suggestion
```

File: Mathlib/Analysis/Convex/Continuous.lean [hunk 16]
```diff
@@ -52,7 +52,8 @@ lemma ConvexOn.lipschitzOnWith_of_abs_le (hf : ConvexOn ℝ (ball x₀ r) f) (h
         rw [mul_sub, mul_sub, sub_le_sub_iff, ← add_mul]
         have h := hf.2 hy' hz (by positivity) (by positivity) hab
         rw [← hxyz] at h
-        field_simp [a, b, ← mul_div_right_comm] at h
+        simp [a, b] at h
```
Comment (kim-em) [inline Mathlib/Analysis/Convex/Continuous.lean]: Should this be squeezed?

File: Mathlib/Analysis/Convex/Mul.lean [hunk 17]
```diff
@@ -178,6 +178,7 @@ lemma convexOn_zpow : ∀ n : ℤ, ConvexOn 𝕜 (Ioi 0) fun x : 𝕜 ↦ x ^ n
     simp_rw [zpow_negSucc, ← inv_pow]
     refine (convexOn_iff_forall_pos.2 ⟨convex_Ioi _, ?_⟩).pow (fun x (hx : 0 < x) ↦ by positivity) _
     rintro x (hx : 0 < x) y (hy : 0 < y) a b ha hb hab
+    simp
```
Comment (kim-em) [inline Mathlib/Analysis/Convex/Mul.lean]: Squeezed?

File: Mathlib/Analysis/SpecialFunctions/Bernstein.lean [hunk 18]
```diff
@@ -110,9 +110,13 @@ theorem probability (n : ℕ) (x : I) : (∑ k : Fin (n + 1), bernstein n k x) =
 
 theorem variance {n : ℕ} (hn : n ≠ 0) (x : I) :
     (∑ k : Fin (n + 1), (x - k/ₙ : ℝ) ^ 2 * bernstein n k x) = (x : ℝ) * (1 - x) / n := by
-  convert congr(Polynomial.aeval (x : ℝ) $(bernsteinPolynomial.variance ℝ n) / n ^ 2) using 1 <;>
-    field_simp [z, ← Finset.sum_div, bernstein_apply, Finset.sum_range, bernsteinPolynomial] <;>
-    ring_nf
+  convert congr(Polynomial.aeval (x : ℝ) $(bernsteinPolynomial.variance ℝ n) / n ^ 2) using 1
+  · simp [z, bernstein_apply, Finset.sum_range, bernsteinPolynomial]
```
Comment (kim-em) [inline Mathlib/Analysis/SpecialFunctions/Bernstein.lean]: Nonterminal simp needs squeezing.

File: Mathlib/Analysis/SpecialFunctions/BinaryEntropy.lean [hunk 19]
```diff
@@ -376,7 +376,7 @@ lemma qaryEntropy_strictMonoOn (qLe2 : 2 ≤ q) :
       linarith
     simp only [one_div, interior_Icc, mem_Ioo] at hp
     rw [deriv_qaryEntropy (by linarith)]
-    · field_simp
+    · simp
```
Comment (kim-em) [inline Mathlib/Analysis/SpecialFunctions/BinaryEntropy.lean]: Squeeze.

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean [hunk 20]
```diff
@@ -275,9 +275,9 @@ lemma hasSum_taylorSeries_neg_log {z : ℂ} (hz : ‖z‖ < 1) :
   convert hasSum_taylorSeries_log (z := -z) (norm_neg z ▸ hz) using 2 with n
   rcases n.eq_zero_or_pos with rfl | hn
   · simp
-  field_simp
-  rw [div_eq_div_iff, pow_succ', mul_assoc (-1), ← mul_pow, neg_mul_neg, neg_one_mul, one_mul]
-  all_goals {norm_cast; exact hn.ne'}
+  simp [field, pow_add]
```
Comment (kim-em) [inline Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean]: Squeeze?

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Arctan.lean [hunk 21]
```diff
@@ -287,8 +287,9 @@ theorem arctan_add_eq_add_pi (h : 1 < x * y) (hx : 0 < x) :
   rw [arctan_inv_of_pos hx, arctan_inv_of_pos hy, show _ + _ = π - (arctan x + arctan y) by ring,
     sub_eq_iff_eq_add, ← sub_eq_iff_eq_add', sub_eq_add_neg, ← arctan_neg, add_comm] at k
   convert k.symm using 3
-  field_simp
-  rw [show -x + -y = -(x + y) by ring, show x * y - 1 = -(1 - x * y) by ring, neg_div_neg_eq]
+  simp [field]
+  rw [← div_neg]
+  ring_nf
```
Comment (kim-em) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Arctan.lean]:
```suggestion
  grind
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Arctan.lean [hunk 22]
```diff
@@ -287,8 +287,9 @@ theorem arctan_add_eq_add_pi (h : 1 < x * y) (hx : 0 < x) :
   rw [arctan_inv_of_pos hx, arctan_inv_of_pos hy, show _ + _ = π - (arctan x + arctan y) by ring,
     sub_eq_iff_eq_add, ← sub_eq_iff_eq_add', sub_eq_add_neg, ← arctan_neg, add_comm] at k
   convert k.symm using 3
```
Comment (kim-em) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Arctan.lean]:
```suggestion
```

File: Mathlib/Combinatorics/SetFamily/AhlswedeZhang.lean [hunk 23]
```diff
@@ -69,8 +69,7 @@ private lemma binomial_sum_eq (h : n < m) :
   rw [(eq_mul_inv_iff_mul_eq₀ hi₄).mpr this]
   have : (m - i : ℚ) ≠ 0 := sub_ne_zero_of_ne (cast_lt.mpr h₂).ne'
   have : (m.choose i : ℚ) ≠ 0 := cast_ne_zero.2 (choose_pos h₂.le).ne'
-  field_simp
-  ring
+  simp (disch := assumption) [field]
```
Comment (kim-em) [inline Mathlib/Combinatorics/SetFamily/AhlswedeZhang.lean]:
```suggestion
  simp_all [field]
```

File: Mathlib/Data/Real/Basic.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/Data/Real/Basic.lean:480]: The naming scheme calls for all such instances to be named this way, as far as I recall.

File: Mathlib/Geometry/Euclidean/MongePoint.lean [hunk 24]
```diff
@@ -87,6 +87,7 @@ sum of vectors to the vertices. -/
 theorem smul_mongePoint_vsub_circumcenter_eq_sum_vsub {n : ℕ} (s : Simplex ℝ P (n + 2)) :
     (n + 1) • (s.mongePoint -ᵥ s.circumcenter) = ∑ i, (s.points i -ᵥ s.circumcenter) := by
   rw [mongePoint_eq_smul_vsub_vadd_circumcenter, vadd_vsub, ← smul_assoc]
+  simp
```
Comment (kim-em) [inline Mathlib/Geometry/Euclidean/MongePoint.lean]: Needs squeezing?

File: Mathlib/Geometry/Euclidean/Sphere/Ptolemy.lean [hunk 25]
```diff
@@ -57,15 +57,15 @@ theorem mul_dist_add_mul_dist_eq_mul_dist_of_cospherical {a b c d p : P}
...
+    all_goals simp [field, mul_comm, hmul]
   have h₂ : dist d a = dist a p / dist b p * dist b c := by
     rw [dist_mul_of_eq_angle_of_dist_mul c p b d p a, dist_comm c b]
     · rwa [angle_comm, angle_eq_angle_of_angle_eq_pi_of_angle_eq_pi]; rwa [angle_comm]
-    all_goals field_simp [mul_comm, hmul]
-  have h₃ : dist d p = dist a p * dist c p / dist b p := by field_simp [mul_comm, hmul]
+    all_goals simp [field, mul_comm, hmul]
+  have h₃ : dist d p = dist a p * dist c p / dist b p := by simp [field, hmul]
   have h₄ : ∀ x y : ℝ, x * (y * x) = x * x * y := fun x y => by rw [mul_left_comm, mul_comm]
   -- takes 450ms, but the "equivalent" simp call leaves some remaining goals
```
Comment (kim-em) [inline Mathlib/Geometry/Euclidean/Sphere/Ptolemy.lean]:
```suggestion
```

File: Mathlib/LinearAlgebra/AffineSpace/Slope.lean [hunk 26]
```diff
@@ -105,12 +106,15 @@ theorem sub_div_sub_smul_slope_add_sub_div_sub_smul_slope (f : k → PE) (a b c
...
     vsub_add_vsub_cancel]
 
+set_option linter.unusedSimpArgs false in
 /-- `slope f a c` is an affine combination of `slope f a b` and `slope f b c`. This version uses
 `lineMap` to express this property. -/
 theorem lineMap_slope_slope_sub_div_sub (f : k → PE) (a b c : k) (h : a ≠ c) :
     lineMap (slope f a b) (slope f b c) ((c - b) / (c - a)) = slope f a c := by
-  field_simp [sub_ne_zero.2 h.symm, ← sub_div_sub_smul_slope_add_sub_div_sub_smul_slope f a b c,
-    lineMap_apply_module]
+  simp [← sub_div_sub_smul_slope_add_sub_div_sub_smul_slope f a b c, lineMap_apply_module]
```
Comment (kim-em) [inline Mathlib/LinearAlgebra/AffineSpace/Slope.lean]: Probably this needs squeezing?

File: Mathlib/NumberTheory/Bernoulli.lean [hunk 27]
```diff
@@ -129,7 +129,7 @@ theorem sum_bernoulli' (n : ℕ) : (∑ k ∈ range n, (n.choose k : ℚ) * bern
   refine sum_congr rfl fun k hk => ?_
   congr
   have : ((n - k : ℕ) : ℚ) + 1 ≠ 0 := by norm_cast
-  field_simp [← cast_sub (mem_range.1 hk).le, mul_comm]
+  simp [field, ← cast_sub (mem_range.1 hk).le, mul_comm]
```
Comment (kim-em) [inline Mathlib/NumberTheory/Bernoulli.lean]: Squeeze.

File: Mathlib/NumberTheory/Bernoulli.lean [hunk 28]
```diff
@@ -152,9 +152,7 @@ theorem bernoulli'PowerSeries_mul_exp_sub_one :
   simp_rw [mem_antidiagonal]
   rintro ⟨i, j⟩ rfl
   have := factorial_mul_factorial_dvd_factorial_add i j
-  field_simp [mul_comm _ (bernoulli' i), mul_assoc, add_choose]
-  norm_cast
-  simp [mul_comm (j + 1)]
+  simp (disch := assumption) [field, add_choose]
```
Comment (kim-em) [inline Mathlib/NumberTheory/Bernoulli.lean]:
```suggestion
  simp_all [field, add_choose]
```

I'd prefer we only use custom dischargers if standard tactics don't work. It feels like unnecessary optimization to use `disch := assumption` over `simp_all` or `simp [*]`.

File: Mathlib/NumberTheory/Modular.lean [hunk 29]
```diff
@@ -231,14 +231,13 @@ theorem smul_eq_lcRow0_add {p : Fin 2 → ℤ} (hp : IsCoprime (p 0) (p 1)) (hg
...
-  rw [← hg, det_fin_two]
-  simp only [Int.cast_sub, Int.cast_mul]
-  ring
+  subst hg
+  rw [coe_specialLinearGroup_apply]
+  replace nonZ2 : z * (g 1 0 : ℂ) + g 1 1 ≠ 0 := by convert nonZ2 using 1; ring
+  simp [field]
+  have H := congr(Int.cast (R := ℂ) $(det_fin_two g))
+  simp at H
+  linear_combination -((z : ℂ) * (g 1 1 : ℂ) - g 1 0) * H
```
Comment (kim-em) [inline Mathlib/NumberTheory/Modular.lean]:
```suggestion
  have H := congr(Int.cast (R := ℂ) $(det_fin_two g))
  simp at H
  simp [field]
  linear_combination -((z : ℂ) * (g 1 1 : ℂ) - g 1 0) * H
```

Comment (kim-em) [reply Mathlib/NumberTheory/Modular.lean]: `grind` also works here in place of `linear_combination`, but if there's information in the linear_combination call that's fine.

File: Mathlib/Probability/Distributions/Gaussian/Real.lean [hunk 30]
```diff
@@ -417,15 +408,15 @@ theorem complexMGF_id_gaussianReal (z : ℂ) :
       rw [integral_cexp_quadratic (by simpa using pos_iff_ne_zero.mpr hv), ← mul_assoc]
     _ = 1 * cexp (-μ ^ 2 / (2 * v) - (z + μ / v) ^ 2 / (4 * -(2 * v)⁻¹)) := by
       congr 1
-      field_simp [Real.sqrt_eq_rpow]
+      simp [field, Real.sqrt_eq_rpow, -mul_inv_rev]
```
Comment (kim-em) [inline Mathlib/Probability/Distributions/Gaussian/Real.lean]: squeeze

File: Mathlib/Probability/Distributions/Pareto.lean [hunk 31]
```diff
@@ -103,8 +103,8 @@ lemma lintegral_paretoPDF_eq_one (ht : 0 < t) (hr : 0 < r) :
   rw [← ENNReal.toReal_eq_one_iff, ← lintegral_add_compl _ measurableSet_Ici, compl_Ici,
     leftSide, rightSide, add_zero, ← integral_eq_lintegral_of_nonneg_ae]
   · rw [integral_Ici_eq_integral_Ioi, integral_const_mul, integral_Ioi_rpow_of_lt _ ht]
-    · field_simp [hr]
-      rw [mul_assoc, ← rpow_add ht]
+    · simp [field]
```
Comment (kim-em) [inline Mathlib/Probability/Distributions/Pareto.lean]: squeeze

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 32]
```diff
@@ -417,8 +417,10 @@ lemma add {Y : Ω → ℝ} {cX cY : ℝ≥0} (hX : HasSubgaussianMGF X cX κ ν)
         · exact hmY (t * q)
       _ = exp ((cX.sqrt + cY.sqrt) ^ 2 * t ^ 2 / 2) := by
         simp_rw [← exp_mul, ← exp_add]
-        field_simp [p, q]
-        ring }
+        simp [p, q]
```
Comment (kim-em) [inline Mathlib/Probability/Moments/SubGaussian.lean]: Does this warrant squeezing?

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 33]
```diff
@@ -151,17 +148,16 @@ theorem IsPrimitiveRoot.arg {n : ℕ} {ζ : ℂ} (h : IsPrimitiveRoot ζ n) (hn
...
-  on_goal 2 =>
-    rw [mul_div_assoc]
-    exact mul_nonpos_of_nonpos_of_nonneg (sub_nonpos.mpr <| mod_cast h.le)
-      (div_nonneg (by simp [Real.pi_pos.le]) <| by simp)
-  rw [← mul_rotate', mul_div_assoc, neg_lt, ← mul_neg, mul_lt_iff_lt_one_right Real.pi_pos, ←
-    neg_div, ← neg_mul, neg_sub, div_lt_iff₀, one_mul, sub_mul, sub_lt_comm, ← mul_sub_one]
-  · norm_num
-    exact mod_cast not_le.mp h₂
-  · exact Nat.cast_pos.mpr hn.bot_lt
+  simp
```
Comment (kim-em) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]: Squeeze

File: Mathlib/Tactic/FieldSimp/Lemmas.lean [hunk 34]
```diff
@@ -0,0 +1,549 @@
...
+
+section
+variable [GroupWithZero α]
+
+open Classical in
+/-- This is a variant of integer exponentiation, defined for internal use in the `field_simp` tactic
+implementation. It differs from the usual integer exponentiation in that `0 ^ 0` is `0`, not `1`.
+With this choice, the function `n ↦ a ^ n` is always a homomorphism (`a ^ (n + m) = a ^ n * a ^ m`),
+even if `a` is zero. -/
+noncomputable def zpow' (a : α) (n : ℤ) : α :=
```
Comment (kim-em) [inline Mathlib/Tactic/FieldSimp/Lemmas.lean:30]: Could this be namespaced, e.g. under `Mathlib.Tactic.FieldSimp`?

File: Mathlib/Tactic/FieldSimp/Lemmas.lean [hunk 35]
```diff
@@ -0,0 +1,549 @@
...
+  by_cases ha : a = 0
+  · simp [ha]
+  by_cases hb : b = 0
+  · simp [hb]
+  simp [zpow', ha, hb]
+  exact mul_zpow a b n
+
+end zpow'
+
+namespace List
```
Comment (kim-em) [inline Mathlib/Tactic/FieldSimp/Lemmas.lean]: Similarly I think this should be namespaced. You'll have to give up dot notation locally, but I don't think it is reasonable for tactic internals to claim the global `List.prod'` name.

File: Mathlib/Tactic/FieldSimp/Lemmas.lean [hunk 36]
```diff
@@ -0,0 +1,549 @@
...
+variable {M : Type*}
+
+
+/-- The product of the elements of a list. This is a variant of the library version of `List.prod`,
+in which multiplication goes backwards (the first element of the list goes leftmost in the
+multiplication). -/
+def prod' {M : Type*} [Mul M] [One M] : List M → M := foldr (fun a t ↦ t * a) 1
```
Comment (kim-em) [inline Mathlib/Tactic/FieldSimp/Lemmas.lean]: I haven't looked yet how you're using this, but I presume there is a reason you can't just use `L.reverse.prod`?

File: Mathlib/Tactic/FieldSimp/Lemmas.lean [hunk 37]
```diff
@@ -0,0 +1,549 @@
...
+  rw [← mul_assoc, mul_comm (zpow' e 1), mul_assoc]
+  congr! 1
+  rw [← zpow'_neg, ← zpow'_add]
+  congr
+
+instance : Inv (NF M) where
+  inv l := l.map fun (a, x) ↦ (-a, x)
+
+-- generalize library `List.prod_inv`
+theorem _root_.List.prod_inv₀ {K : Type*} [DivisionCommMonoid K] :
```
Comment (kim-em) [inline Mathlib/Tactic/FieldSimp/Lemmas.lean]: Move out to the library?

File: Mathlib/Tactic/FieldSimp/Lemmas.lean [hunk 38]
```diff
@@ -0,0 +1,549 @@
...
+  rw [h, eval_inv]
+
+instance : Pow (NF M) ℤ where
+  pow l r := l.map fun (a, x) ↦ (r * a, x)
+
+@[simp] theorem zpow_apply (r : ℤ) (l : NF M) : l ^ r = l.map fun (a, x) ↦ (r * a, x) :=
+  rfl
+
+-- in the library somewhere?
+theorem _root_.List.prod_zpow {β : Type*} [DivisionCommMonoid β] {r : ℤ} {l : List β} :
```
Comment (kim-em) [inline Mathlib/Tactic/FieldSimp/Lemmas.lean]: Move out?

File: Mathlib/Tactic/FieldSimp/Lemmas.lean [hunk 39]
```diff
@@ -0,0 +1,549 @@
...
+  rw [← zpow'_of_ne_zero_right x r hr, eval_zpow', hx]
+
+instance : Pow (NF M) ℕ where
+  pow l r := l.map fun (a, x) ↦ (r * a, x)
+
+@[simp] theorem pow_apply (r : ℕ) (l : NF M) : l ^ r = l.map fun (a, x) ↦ (r * a, x) :=
+  rfl
+
+-- in the library somewhere?
+theorem _root_.List.prod_pow {β : Type*} [CommMonoid β] {r : ℕ} {l : List β} :
```
Comment (kim-em) [inline Mathlib/Tactic/FieldSimp/Lemmas.lean]: Move out?

File: Mathlib/Lean/Meta/Simp.lean [hunk 40]
```diff
@@ -77,6 +77,19 @@ def Simp.Context.ofNames (lemmas : List Name := []) (simpOnly : Bool := false)
     (simpTheorems := #[← simpTheoremsOfNames lemmas simpOnly])
     (congrTheorems := ← Lean.Meta.getSimpCongrTheorems)
 
+-- adapted from `Lean.Elab.Tactic.mkSimpContext`
+/-- Construct a `Simp.Context`, following the same algorithm that would be done in a "simp" run:
+look up all the simp-lemmas in the library, and adjust (add/erase) as specified by the provided
+`simpArgs` list. -/
+def Simp.Context.ofArgs (args : Syntax) (config : Simp.Config := {}) : TacticM Simp.Context := do
```
Comment (eric-wieser) [inline Mathlib/Lean/Meta/Simp.lean]: Is there a suitable TSyntax that can be used here?

File: Mathlib/Tactic/FieldSimp/Lemmas.lean (hunk 36 above)
Comment (grunweg) [reply Mathlib/Tactic/FieldSimp/Lemmas.lean]: For non-commutative rings, this would make a difference. My understanding is that field_simp only cares about `CommGroupWithZero`... but I'm not sure if this meta code is meant to be used more generally.
@hrmacbeth Can you comment on this?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean (hunk 1 above)
Comment (hrmacbeth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean:274]: The `field_simp` default discharger tries several things, [one of which is `simp`](https://github.com/leanprover-community/mathlib4/blob/cadca4e3e7207e58b0c55037c595dad1d190ab83/Mathlib/Tactic/FieldSimp/Discharger.lean#L78-L99). The discharger is in `SimpM`, so it has a "memory" of which simp-lemmas are used. When that default discharger gets [packaged for the simproc](https://github.com/leanprover-community/mathlib4/blob/b6d0cc69e158716ba50813a91b162b1a695b206a/Mathlib/Tactic/FieldSimp.lean#L585-L586), it inherits the context from the ambient simp-call, but it throws away the simp-lemma memory, because our [core methods](https://github.com/leanprover-community/mathlib4/blob/ed3e36c36bc4419291fe9af171620c33ecc643c4/Mathlib/Tactic/FieldSimp.lean#L483) (`reduceExpr` and `reduceEq`) take dischargers which live in `MetaM`, not `SimpM`.

In principle this could be fixed by having `reduceExpr` and `reduceEq` take dischargers which live in `SimpM`. But in the future I'd like to rewrite the `field_simp` discharger to *not* be simp-based, so this would lead to unnecessary refactoring at that point. (The reason we currently include a simp call in the discharger is that it gives a cheap approximation to `positivity`'s nonzeroness-proving in fields without a partial order.)

File: Mathlib/Tactic/FieldSimp/Lemmas.lean (hunk 37 above)
Comment (grunweg) [reply Mathlib/Tactic/FieldSimp/Lemmas.lean]: Moved.

File: Mathlib/Analysis/Convex/Continuous.lean (hunk 16 above)
Comment (grunweg) [reply Mathlib/Analysis/Convex/Continuous.lean]: I wonder if we should consider `field_simp` a normalising tactic like ring: i.e, `simp; field_simp` is just as fine as `field_simp; ring` is. What do you think?
(Independently, I can check how long the list of lemmas is. If it's short, squeezing might be nice regardless.)

File: Mathlib/Analysis/Convex/Slope.lean [hunk 41]
```diff
@@ -302,9 +306,9 @@ theorem StrictConvexOn.secant_strict_mono (hf : StrictConvexOn 𝕜 s f) {a x y
   rcases lt_or_gt_of_ne hxa with hxa | hxa
   · rcases lt_or_gt_of_ne hya with hya | hya
     · convert hf.secant_strict_mono_aux3 hx ha hxy hya using 1 <;> rw [← neg_div_neg_eq] <;>
-        field_simp
+        simp
```
Comment (grunweg) [inline Mathlib/Analysis/Convex/Slope.lean]: Extracted to #28952.

File: Mathlib/Algebra/ContinuedFractions/Computation/CorrectnessTerminating.lean [hunk 42]
```diff
@@ -176,19 +176,9 @@ theorem compExactValue_correctness_of_stream_eq_some :
...
-      rw [inv_eq_one_div] at tmp_calc tmp_calc'
-      -- because `field_simp` is not as powerful
-      have hA : (↑⌊1 / ifp_n.fr⌋ * pA + ppA) + pA * f = pA * (1 / ifp_n.fr) + ppA := by
-        have := congrFun (congrArg HMul.hMul tmp_calc) f
-        rwa [right_distrib, div_mul_cancel₀ (h := f_ne_zero),
-          div_mul_cancel₀ (h := f_ne_zero)] at this
-      have hB : (↑⌊1 / ifp_n.fr⌋ * pB + ppB) + pB * f = pB * (1 / ifp_n.fr) + ppB := by
-        have := congrFun (congrArg HMul.hMul tmp_calc') f
-        rwa [right_distrib, div_mul_cancel₀ (h := f_ne_zero),
-          div_mul_cancel₀ (h := f_ne_zero)] at this
```
Comment (grunweg) [inline Mathlib/Algebra/ContinuedFractions/Computation/CorrectnessTerminating.lean]: Also extracted to #28952.

File: Mathlib/Analysis/BoxIntegral/Box/SubboxInduction.lean (hunk 8 above)
Comment (grunweg) [reply Mathlib/Analysis/BoxIntegral/Box/SubboxInduction.lean]: I have used `simp [field, splitCenterBox, *]` instead.

File: Mathlib/Probability/Distributions/Pareto.lean (hunk 31 above)
Comment (grunweg) [reply Mathlib/Probability/Distributions/Pareto.lean]: Merged with the line below

File: Mathlib/Probability/Distributions/Gaussian/Real.lean (hunk 30 above)
Comment (grunweg) [reply Mathlib/Probability/Distributions/Gaussian/Real.lean]: Naively squeezing this doesn't work. @hrmacbeth Do you feel like investigating? You did this before...

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean (hunk 20 above)
Comment (grunweg) [reply Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean]: Combined these lines into one.

File: Mathlib/NumberTheory/Modular.lean (hunk 29 above)
Comment (grunweg) [reply Mathlib/NumberTheory/Modular.lean]: I accepted the first suggestion; I don't have an opinion on preferring linear_combination or grind.

File: Mathlib/Analysis/Calculus/Monotone.lean (hunk 13 above)
Comment (hrmacbeth) [reply Mathlib/Analysis/Calculus/Monotone.lean:38]: See analysis [above](https://github.com/leanprover-community/mathlib4/pull/28658/files#r2300463920).

File: MathlibTest/FieldSimp.lean (hunk 3 above)
Comment (hrmacbeth) [reply MathlibTest/FieldSimp.lean:51]: Because of the dependence on atom ordering, `field_simp` is not idempotent, even using a less sensitive notion of equality. Consider e.g. `a * b⁻¹ * c * (b * c + 1)` -> `a * c * (b * c + 1) / b` -> `a * c * (c * b + 1) / b`.

File: Mathlib/Tactic/FieldSimp/Lemmas.lean (hunk 36 above)
Comment (kim-em) [reply Mathlib/Tactic/FieldSimp/Lemmas.lean]: Sorry, maybe I misunderstood. Does this differ from the usual product by reversing the list, or swapping associativity (or both), why does this difference matter?

File: Mathlib/Probability/Distributions/Gaussian/Real.lean (hunk 30 above)
Comment (hrmacbeth) [reply Mathlib/Probability/Distributions/Gaussian/Real.lean]: Done. The `simp?` failed for the same underlying reason as [described here](https://github.com/leanprover-community/mathlib4/pull/28658/files#r2300463920): simp-lemmas used in the discharger are not reported, so (1) they aren't found by `simp?` and need to be traced by hand, (2) once reported the linter complains about them and needs to be silenced.

File: Mathlib/Tactic/FieldSimp/Lemmas.lean (hunk 36 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/FieldSimp/Lemmas.lean]: Nice catch!  I think it can just be removed.  Our `prod'` differed from `prod` by both reversing and associativity, i.e.
```lean
example {a b c : R} : prod [a, b, c] = a * (b * (c * 1)) := rfl
example {a b c : R} : prod (reverse [a, b, c]) = c * (b * (a * 1)) := rfl
example {a b c : R} : prod' [a, b, c] = 1 * c * b * a := rfl
```
But the other lemmas can be adjusted so that the different associativity doesn't leak into the `field_simp` output.

I pushed what I think are all the necessary adjustments, let's see if it builds.

File: Mathlib/Tactic/FieldSimp/Lemmas.lean
Comment (bryangingechen) [reply Mathlib/Tactic/FieldSimp/Lemmas.lean:1]: These seem to be under the `Mathlib.Tactic.FieldSimp` namespace now.

File: Mathlib/Tactic/FieldSimp/Lemmas.lean (hunk 36 above)
Comment (grunweg) [reply Mathlib/Tactic/FieldSimp/Lemmas.lean]: It does!

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean:274]: Okay. Before we lose this information, could all the `set_option`s introduced in this PR have a link added, perhaps even just to your comment here?

**Comment by kim-em** [comment]
bors d+

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean (hunk 1 above)
Comment (hrmacbeth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean:274]: I opened #29041 and linked it at each place the linter is disabled.
